US08304577B2
(S)-2-Phenylpropanoic acid (107 mg, 0.713 mmol), EDC (137 mg, 0.713 mmol), HOBt (109 mg, 0.713 mmol), and Hunig's base (249 μL, 1.426 mmol) in DCM (6480 μL) were stirred at room temperature for 10 min. (2R)-tert-Butyl 2-(amino(4-(benzyloxy)phenyl)methyl)pyrrolidine-1-carboxylate (248 mg, 0.648 mmol) was added and the solution stirred at room temperature for 4 h. The reaction was quenched with 10% aqueous citric acid and extracted with DCM (3×). The combined organic layers were washed with 10% aqueous citric acid (2×), saturated aqueous sodium bicarbonate (2×), brine (1×), dried over MgSO4, filtered and concentrated. The residue was purified by column chromatography on silica gel (10%→60% ethyl acetate in hexanes). Two diastereomers were obtained. (R)-tert-Butyl 2-((R)-(4-(benzyloxy)phenyl)((S)-2-phenylpropanamido)methyl)pyrrolidine-1-carboxylate (78 mg, 0.114 mmol, 17.54% yield) was obtained as a colorless oil (peak 1). 1H NMR (400 MHz, CDCl3) δ 8.01 (d, J=6.29 Hz, 1H), 7.33-7.43 (m, 6 H), 7.11-7.23 (m, 4H), 7.06 (d, J=8.56 Hz, 2H), 6.82 (d, J=8.56 Hz, 2H), 4.99 (s, 2H), 4.50 (dd, J=10.83, 6.04 Hz, 1H), 4.01-4.11 (m, 1H), 3.28-3.49 (m, 3H), 1.76-2.07 (m, 2H), 1.53-1.68 (m, 2H), 1.50 (s, 9H), 1.40 (d, J=7.05 Hz, 3H); LRMS (ESI) m/e 515.40 [(M+H)+, calcd for C32H39N2O4 515.29]; m/e 513.60 [(M−H)−, calcd for C32H32N2O4 513.28]. (R)-tert-Butyl 2-((S)-(4-(benzyloxy)phenyl)((S)-2-phenylpropanamido)methyl)pyrrolidine-1-carboxylate (122 mg, 0.183 mmol, 28.2% yield) was obtained as a colorless oil (peak 2). 1H NMR (400 MHz, CDCl3) δ 8.95 (d, J=6.30 Hz, 1H), 7.23-7.44 (m, 10H), 7.02 (d, J=8.56 Hz, 2H), 6.84 (d, J=8.56 Hz, 2H), 5.01 (s, 2H), 4.68-4.76 (m, 1H), 4.02-4.09 (m, 1H), 3.54 (q, J=7.13 Hz, 1H), 3.09-3.22 (m, 1H), 2.41-2.54 (m, 1H), 1.94-2.07 (m, 1H), 1.64-1.74 (m, 1H), 1.49 (d, J=7.05 Hz, 3H), 1.47 (s, 9H), 1.30-1.40 (m, 2H); LRMS (ESI) m/e 515.30 [(M+H)+, calcd for C32H39N2O4 515.29]; m/e 513.50 [(M−H)−, calcd for C32H32N2O4 513.28].

reactant | (S)-2-Phenylpropanoic acid | 0.713 mmol, 107 mg | C1(=CC=CC=C1)[C@@H](C(=O)O)C | C9H10O2
reactant | EDC | 0.713 mmol, 137 mg
reactant | HOBt | 0.713 mmol, 109 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Hunig's base | 1.426 mmol, 249 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | (2R)-tert-Butyl 2-(amino(4-(benzyloxy)phenyl)methyl)pyrrolidine-1-carboxylate | 0.648 mmol, 248 mg | NC([C@@H]1N(CCC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C23H30N2O3
solvent | DCM | 6480 μL | C(Cl)Cl | CH2Cl2
product | (R)-tert-Butyl 2-((R)-(4-(benzyloxy)phenyl)((S)-2-phenylpropanamido)methyl)pyrrolidine-1-carboxylate | 0.114 mmol, 78 mg, 17.54% yield | C(C1=CC=CC=C1)OC1=CC=C(C=C1)[C@H]([C@@H]1N(CCC1)C(=O)OC(C)(C)C)NC([C@@H](C)C1=CC=CC=C1)=O | C32H38N2O4
